US06620839B2
3′-chloro-4′-hydroxy-1,1′-biphenyl-4-carbonitrile
4-Cyanophenylboronic acid and 4-bromo-2-chlorophenol were processed as described in Example 167A to provide the title compound (62% yield). 1HNMR (300 MHz, DMSO) δ7.12 (m, 1H), 7.58 (m, 1H), 7.80 (m, 5H); MS (CDI) m/z 247(M+NH4)+.

reactant | 4-Cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | 4-bromo-2-chlorophenol | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
product | 3′-chloro-4′-hydroxy-1,1′-biphenyl-4-carbonitrile | 62% yield | ClC=1C=C(C=CC1O)C1=CC=C(C=C1)C#N | C13H8ClNO
